US05635510
76.1 Synthesis of 1-benzyl-4-(4-methyl-phenyl)-4-cyano-piperidine
4-Methylphenyl-acetonitrile (1.66 g, 12.6 mmol), sodium iodide (0.25 g), and sodium hydride (50.4 mmol) were combined in dimethylformamide (50 mL) and stirred until gas evolution ceases. A solution of N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride (2.8 g, 12.6 mmol) in dimethylformamide (50 mL) was added dropwise. After 24 hours, the reaction mixture was heated to 70° C. and stirred for 2 days. The solvent was removed by evaporation in vacuo to give a residue and the residue was partitioned between water and dichloromethane. The organic layer was separated, dried over MgSO4, filtered and evaporated in vacuo to give a residue which was chromatographed on silica gel eluting with 2/1 hexane/ethyl acetate to give the title compound.

reactant | 4-Methylphenyl-acetonitrile | 12.6 mmol, 1.66 g | CC1=CC=C(C=C1)CC#N | C9H9N
reactant | sodium iodide | 0.25 g | [I-].[Na+]
reactant | sodium hydride | 50.4 mmol | [H-].[Na+]
reactant | N,N-bis(2-chloroethyl)-N-benzylamine hydrochloride | 12.6 mmol, 2.8 g | Cl.ClCCN(CC1=CC=CC=C1)CCCl
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-4-(4-methyl-phenyl)-4-cyano-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)C | C20H22N2
